Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right foot infection
 
Major Surgical or Invasive Procedure:
- Incision and drainage (___)
- Right UE PICC line placement (___)

 
History of Present Illness:
___ yo man with hx HTN and DM who presents with a diabetic foot 
ulcer.  
For the past week, he has been maintained on clindamycin for a R 
foot ulcer but the ulcer has worsened and become more painful 
and his blood glucose has ranged above 400. He has been fatigued 
and has noted chills. He was seen ___ clinic today and was found 
to have a WBC of 15.6 and a HR of 130. He was referred to the ED 
for evaluation for sepsis.  
___ the ED intial vitals were: ___ 99%. Spiked to 
102.5  
- Labs were significant for WBC of 17.7 with 90% PMNs, Na of 
126, Cr of 2.1, glucose ___ 500s. Lactate 1.4.  
- Blood cultures, wound culture drawn  
- Foot xray pending  
- Podiatry consulted - r. plantar foot I&D at bedside revealed 
copious purulent drainage. Plan for OR likely on ___.  
- Patient was given vanc, cipro, flagyl, 1g tylenol, 10 mg 
oxycodone, and 40 units of lantus  
Vitals prior to transfer were: 100.1 94 132/82 17 98% RA  
 
On the floor, he has no further complaints.  
 
Review of Systems:  
(+) per HPI  
(-) night sweats, headache, vision changes, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
- DM Type II with neuropathy  
- Hypertension  
- Hypercholesterolemia  
- Obesity  
- CKD, stage ___  
- s/p Appendectomy
 
Social History:
___
Family History:
-Father with diabetes
-Mother with colon cancer
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
=============================================
Vitals- 98.0 112/66 88 18 100% RA  
General- comfortable ___ NAD  
HEENT- sclera anicteric. MMM  
Neck- supple, no cervical lymphadenopathy  
Lungs- clear to ausculatation  
CV- RRR  
Abdomen- +BS. soft. NT/ND  
GU- no foley  
Ext- ___ pulses palpable ___ RLE. ___ edema ___ RLE. Ulceration 
under ___ digit with prurulent drainage, foul odor with dressing 
c/d/i.  
Neuro- A&Ox3. moving all extremities. diminished sensation over 
___ toe bilaterally consist with neuropathy.  

PHYSICAL EXAM ON DISCHARGE:
=============================================
VS: 98.1  89  109/69  18  98%RA 
General: Awake, alert, ___ no distress.
HEENT: Pupils equal, round, minimally reactive to light. No 
scleral icterus. MMM. No oral lesions.
Neck: Supple. No LAD.
CV: Regular rate, regular rhythm. No murmur appreciated.
Lungs: CTA b/l.
Abdomen: BS+. Soft, nontender, mildly distended. No masses or 
HSM appreciated.
GU: Deferred. No foley.
Ext: Right ___ with 1+ pitting edema to mid shin, stable from 
previous exams. Right foot with dry, scaly skin. Foot wrapped ___ 
ACE wrap, wound with stiches at base of ___ metatarsal clean and 
dry. Wound above stitches (plantar aspect of ___ toe) is open 
and a bit mushy, with granulation tissue vs purulence?  Left ___ 
with no edema.
Neuro: AOx3. CN2-12 grossly intact. No focal deficits.
 
Pertinent Results:
LABS:
========================================
___ 08:50PM BLOOD WBC-17.7*# RBC-3.76* Hgb-10.6* Hct-30.9* 
MCV-82 MCH-28.3 MCHC-34.5 RDW-13.2 Plt ___
___ 08:50PM BLOOD Neuts-90.0* Lymphs-4.9* Monos-4.6 Eos-0.2 
Baso-0.3
___ 06:57AM BLOOD ___ PTT-26.8 ___
___ 06:57AM BLOOD ESR-115*
___ 08:50PM BLOOD Glucose-523* UreaN-32* Creat-2.1* Na-126* 
K-5.1 Cl-91* HCO3-23 AnGap-17
___ 06:57AM BLOOD Calcium-7.8* Phos-3.8 Mg-1.6
___ 06:57AM BLOOD CRP-175.4*
___ 09:00PM BLOOD Lactate-1.4
___ 06:40AM BLOOD WBC-14.2* RBC-3.60* Hgb-9.3* Hct-29.5* 
MCV-82 MCH-25.9* MCHC-31.5 RDW-13.7 Plt ___
___ 06:40AM BLOOD Glucose-117* UreaN-24* Creat-1.7* Na-137 
K-4.8 Cl-102 HCO3-25 AnGap-15
___ 06:40AM BLOOD Calcium-8.9 Phos-4.0 Mg-1.6

___ 8:52 pm BLOOD CULTURE      #1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      BETA STREPTOCOCCUS GROUP G. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ PAIRS AND CHAINS. 
      Reported to and read back by ___ ___ ___ 
1420. 

___ 10:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ANAEROBIC GRAM POSITIVE COCCUS(I). 
         (formerly Peptostreptococcus species). 
         Isolated from only one set ___ the previous five days. 
         NO FURTHER WORKUP WILL BE PERFORMED. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ PAIRS AND CLUSTERS. 
      Reported to and read back by ___ ___ ___ 
1020. 

___ 10:30 pm SWAB      Source: R foot wcx. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND ___ CLUSTERS. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   WOUND CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED BELOW, THEY ARE NOT 
PRESENT ___
         this culture.. 
      BETA STREPTOCOCCUS GROUP G.    MODERATE GROWTH. 
      BETA STREPTOCOCCUS GROUP B.    SPARSE GROWTH. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 4:55 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 7:10 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
___ 6:29 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 10:12 am BLOOD CULTURE      SET#2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 7:55 am TISSUE     Site: BONE      RIGHT FOOT BONE. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   TISSUE (Final ___: 
      MIXED BACTERIAL FLORA. 
         This culture contains mixed bacterial types (>=3) so an
         abbreviated workup is performed. Any growth of 
P.aeruginosa,
         S.aureus and beta hemolytic streptococci will be 
reported. IF
         THESE BACTERIA ARE NOT REPORTED BELOW, THEY ARE NOT 
PRESENT ___
         this culture.. 
      BETA STREPTOCOCCUS GROUP G.    MODERATE GROWTH. 
         IDENTIFICATION PERFORMED ON CULTURE # ___ 
___. 
      BETA STREPTOCOCCUS GROUP B. 
         Isolated from broth media only, INDICATING VERY LOW 
NUMBERS OF
         ORGANISMS. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


IMAGING:
========================================
-FOOT AP,LAT & OBL RIGHT Study Date of ___:
IMPRESSION:
1. Acute fracture of the head of the ___ metatarsal, with 
lateral 
displacement.
2. Diffuse demineralization of the bones, with significant 
overlying soft tissue swelling raises concern for possible 
osteomyelitis.

-FOOT AP,LAT & OBL RIGHT PORT Study Date of ___:
FINDINGS: Comparison is made to the prior radiographs from 
___ and ___. 
Patient has undergone resection of the majority of the distal 
fourth 
metatarsal as well as of the fourth proximal phalanx.  There 
remains some soft tissue swelling and gas consistent with the 
recent surgery and this is stable. There are postoperative 
changes involving the fifth ray, which are stable. There is a 
large os peronei adjacent to the cuboid.  Spurs about the 
calcaneal tuberosity are present. On the lateral view, there is 
a plantar soft tissue ulcer seen adjacent to the metatarsal 
heads. 

-TTE (Complete) Done ___ at 9:41:11 AM:
Conclusions
The left atrium is normal ___ size. Color-flow imaging of the 
interatrial septum raises the suspicion of an atrial septal 
defect, but this could not be confirmed on the basis of this 
study. The estimated right atrial pressure is ___ mmHg. There is 
mild symmetric left ventricular hypertrophy with normal cavity 
size and regional/global systolic function (LVEF>55%). Doppler 
parameters are indeterminate for left ventricular diastolic 
function. Right ventricular chamber size and free wall motion 
are normal. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is a trivial/physiologic pericardial 
effusion.

IMPRESSION: No valvular vegetations or abscess identified. 
Preserved regional and global biventricular systolic function.

-CHEST PORT. LINE PLACEMENTStudy Date of ___:
IMPRESSION:  Right-sided PIC line ends ___ the right atrium and 
should be
pulled back 3-4 cm for positioning ___ the distal SVC.

-Note Date: ___
Signed by ___, R.N. on ___ at 10:31 am  
Affiliation: ___
 
Picc pulled back 4 cm to place tip ___ lower SVC per Dr ___ ___
radiology. Wire removed on insertion
 
Brief Hospital Course:
PRIMARY REASON FOR HOSPITALIZATION:
===================================================
___ y/o male with PMHx of poorly controlled DM2 (HbA1c ___ was 
13.6), HTN, HLD presented with infected diabetic foot ulcer and 
sepsis.

ACTIVE ISSUES:
===================================================
# Diabetic foot ulcer: Patient presented with a chronic foot 
ulcer of his right foot. He had been seen ___ clinic earlier that 
day and labs drawn were significant for a leukocytosis; he was 
thus sent to the ED for evaluation. ___ the ED initial vitals 
were: ___ 99%. He spiked a fever to 102.5. Labs 
were significant for WBC of 17.7 with 90% PMNs, Na of 126, Cr of 
2.1, glucose ___ 500s. Lactate 1.4. He was placed on 
vanc/cipro/flagyl. Podiatry performed bedside I&D on ___. Blood 
cultures grew group B strep, group G strep. These also grew out 
of wound cultures; MSSA also grew out of the wound. He was taken 
back to the OR for further I&D on ___ and ___. Surface ECHO 
was performed and negative for any mass or vegetation. WBC 
trended down, though did have slight uptrend prior to discharge 
(14.2 on day of discharge). He was hemodynamically stable 
throughout his stay. He was discharged on ertapenem 1g q24hrs at 
home, to be taken for another 6-weeks, with stop date of 
___.

# Type 2 diabetes: uncontrolled, last HbA1c was 13.6 
(___). Patient was placed on his home medication which was 
Lantus 40units qAM. Initially his FSBGs were high, requiring 
large amounts of sliding scale correction at mealtimes. However 
as his infection was controlled, his FSBGs were less that 200. 
Given that not much adjustment was made to his insulin from 
home, yet his sugars were much better controlled than his HbA1c 
suggested, it was thought that his dietary discretion at home 
may be playing a significant role. He was seen by nutrition for 
diet education. He will follow-up with his PCP for further 
titration of his insulin regimen. Given drug interaction, his 
preadmission simvastain was stopped and he was placed on 
atorvastatin 20mg daily. He was continued on his ASA 81mg daily.

# Acute on chronic kidney injury - Cr on admission up to 2.1 
from baseline ~1.4-1.6. Likely due to hypovolemia from sepsis as 
has improved with IVFs and ABx. At discharge his Cr was 1.7.

# HTN: Prior to admission the patient was maintained on atenolol 
and lisinopril. His antihypertensives were intitially held due 
to severe infection. He was eventually placed back on lisinopril 
and uptitrated to 10mg daily. Additionally he was started on 
amlodipine 5mg daily. His atenolol was held given his CKD. His 
BPs were maintained at SBP 120-130s on this regimen.

# Anemia: Review of records show baseline Hbg of around 10. Labs 
from ___ consistent with chronic inflammation, which is likely 
still the case given his chronic ulcers and current 
osteomyelitis. Hbg remained stable at ___ during this 
hospitalization.

TRANSITIONAL ISSUES:
===================================================
- Lisinopril was increased from 5mg to 10mg daily.
- Atenolol was stopped.
- Amlodipine was started at 5mg daily.
- Simvastatin was changed to atorvastatin 20mg daily (given 
interaction between simvastatin and amlodipine).
- He was discharged on 40units Lantus qAM. He will need to 
monitor his FSBGs and likely need insulin adjustment as an 
outpatient based on his dietary pattern.
- Discharged on Ertapenem 1g q24hrs, with stop date of 
___. All questions regarding outpatient parenteral 
antibiotics should be directed to the Infectious Disease RNs at 
___.
- Needs weekly lab draw (CBC with differential, BUN/Cr, AST/ALT, 
Alk Phos, Total bili, ESR/CRP). Results should be faxed to 
Infectious Disease RNs at ___.
- Weight-bearing to right heel.
- Wound needs daily dressing change. Betadine wash, with dry 
___ and ___ wrap.
- Right PICC line placed ___. This can be removed once 
treatment is completed. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY:PRN gerd 
2. Simvastatin 40 mg PO QPM 
3. Lisinopril 5 mg PO DAILY 
4. Sildenafil 100 mg PO DAILY:PRN sexual activity 
5. Clindamycin 150 mg PO Q6H 
6. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
7. Atenolol 25 mg PO DAILY 
8. Glargine 40 Units Breakfast
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. ertapenem 1 gram injection q24hrs 
Stop date ___ 
RX *ertapenem [Invanz] 1 gram 1 gram IV q24hrs Disp #*39 Gram 
Refills:*0
2. Outpatient Lab Work
Please draw weekly CBC with differential, BUN/Cr, AST/ALT, Alk 
Phos, Total bili, ESR/CRP.
All laboratory results should be faxed to the ___ 
R.N.s at ___
ICD9: 730.0
3. Aspirin 81 mg PO DAILY 
4. Glargine 40 Units Breakfast
5. Lisinopril 10 mg PO DAILY 
6. Acetaminophen 325-650 mg PO Q6H:PRN pain, fever 
7. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
9. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
10. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q6hrs Disp #*10 Tablet 
Refills:*0
11. Omeprazole 20 mg PO DAILY:PRN gerd 
12. Sildenafil 100 mg PO DAILY:PRN sexual activity 
13. ertapenem 1 gram injection once Duration: 1 Dose 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right foot diabetic foot ulcer
Osteomyelitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you here at ___ 
___. You were admitted on ___ for a serious 
right foot infection. Because the infection invloved your bone, 
you were placed on IV antibiotics and were taken to the 
operating room to remove infected tissue.

You will continue IV antibiotics at home for 6-weeks, with a 
stop date of ___. You will continue to be seen as an 
outpatient by the Infectious Disease Department.

Your blood pressure medications were changed. Please see below 
for medication changes.

Controlling your diabetes will be a very important part of your 
recovery and important means to prevent future foot infections. 
We urge you to pay close attention to your diet and work with 
your Primary Care Physician to control your blood sugar.

It was great to meet you. We wish you all the best.
-Your ___ Team

 
Followup Instructions:
___